US08202868B2
2-tert-Butyl-4-cyclopropyl-6-{4-[3-([1,3,4]thiadiazol-2-ylsulfanyl)-propyl]-piperazin-1-yl}-pyrimidine
0.21 g of [1,3,4]thiadiazol-2-thiol (1.77 mmol) were dissolved in 20 ml of dimethylformamide. After addition of 0.04 g of lithium hydroxide (1.77 mmol) and 0.13 g of sodium iodide (0.88 mmol), the reaction mixture was stirred at 70° C. and 0.6 g of 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclopropyl-pyrimidine (1.77 mmol), dissolved in 5 ml of dimethylformamide, were added dropwise within 2 h. The mixture was stirred at 80° C. for 2 h, cooled to room temperature and the solvent was evaporated. The residue was partitioned between 40 ml of ethyl acetate and 15 ml of saturated aqueous sodium chloride solution. The aqueous phase was reextracted twice with ethyl acetate, the combined organic layers were dried over magnesium sulfate, filtered, and concentrated to dryness, to yield 0.69 g of the crude product, which was further purified by chromatography on silica gel using dichloromethane-methanol (1:1) and ethyl acetate. Fractions containing the product were combined and the solvents were evaporated. The oily residue crystallized upon standing to yield 0.39 g of the title compound.

reactant | [1,3,4]thiadiazol-2-thiol | 1.77 mmol, 0.21 g | S1C(=NN=C1)S | C2H2N2S2
reactant | lithium hydroxide | 1.77 mmol, 0.04 g | [OH-].[Li+]
reactant | sodium iodide | 0.88 mmol, 0.13 g | [I-].[Na+]
reactant | 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclopropyl-pyrimidine | 1.77 mmol, 0.6 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C1CC1 | C18H29ClN4
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butyl-4-cyclopropyl-6-{4-[3-([1,3,4]thiadiazol-2-ylsulfanyl)-propyl]-piperazin-1-yl}-pyrimidine | 0.39 g | C(C)(C)(C)C1=NC(=CC(=N1)C1CC1)N1CCN(CC1)CCCSC=1SC=NN1 | C20H30N6S2
